US07612075B2
4-[2-(5-Chloro-thiophen-2-yl)-ethenesulfonyl]-1-[2-(3-methyl-pyridin-4-ylamino)-ethyl]-piperazin-2-one
1-[2-(3-Methylpyridin-4-yl-amino)-ethyl]-piperazin-2-one (38 mg, 0.16 mmol), EXAMPLE 94, is reacted with 2-(5-chloro-thiophen-2-yl)-ethenesulfonyl chloride (40 mg, 0.16 mmol), EXAMPLE 3, using the same procedure as described in EXAMPLE 719. Reverse phase HPLC purification gives the title compound (29 mg, 0.052 mmol) as a white solid. MS m/z 441, 443 (M+H); 1H NMR (CD3OD, 300 MHz) δ8.08 (d, 1H), 7.98 (s, 1H), 7.56 (d, 1H), 7.30 (d, 1H), 7.02 (s, 1H), 7.00 (d. 1H), 6.78 (d, 1H), 3.87 (s, 2H), 3.70-3.50 (m, 8H), 2.15 (s, 3H).

reactant | 1-[2-(3-Methylpyridin-4-yl-amino)-ethyl]-piperazin-2-one | 0.16 mmol, 38 mg | CC=1C=NC=CC1NCCN1C(CNCC1)=O | C12H18N4O
reactant | 2-(5-chloro-thiophen-2-yl)-ethenesulfonyl chloride | 0.16 mmol, 40 mg | ClC1=CC=C(S1)C=CS(=O)(=O)Cl | C6H4Cl2O2S2
product | 4-[2-(5-Chloro-thiophen-2-yl)-ethenesulfonyl]-1-[2-(3-methyl-pyridin-4-ylamino)-ethyl]-piperazin-2-one | 0.052 mmol, 29 mg | ClC1=CC=C(S1)C=CS(=O)(=O)N1CC(N(CC1)CCNC1=C(C=NC=C1)C)=O | C18H21ClN4O3S2
